US08044042B2
The compound (37.36 g) described in Example 1 and concentrated sulfuric acid (48.3 mL) were dissolved in acetic acid (32 mL). Acetic anhydride (189 mL) and manganese acetate (III) dihydrate (50.00 g) were successively added, and the mixture was stirred at room temperature for 1 hr. After completion of the reaction, water was added, and the mixture was extracted with ethyl acetate, and washed with 3N aqueous sodium hydroxide solution until the aqueous layer became pH 8. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated to give a brown oil (about 70 g). The obtained brown oil (about 70 g) was dissolved in methanol (300 mL). Sodium methoxide (81 g) was added, and the mixture was stirred at room temperature for 2 hr. After completion of the reaction, methanol was evaporated under reduced pressure. 1N hydrochloric acid (500 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=97:3) to give methyl (S)-{4-(4-chlorophenyl)-2-hydroxymethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (19.85 g) and methyl (S)-{4-(4-chlorophenyl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (4.82 g). The obtained methyl (S)-{4-(4-chlorophenyl)-2-formyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (2.8 g) was dissolved in acetonitrile (20 mL), and aqueous sodium dihydrogen phosphate solution (640 mg/8 ml) was added. To the reaction mixture were successively added 35% hydrogen peroxide solution (3.2 mL) and aqueous sodium chlorite solution (1 g/2.8 ml) at 10° C., and the mixture was stirred for 1 hr on a water bath. After completion of the reaction, water was added, and the mixture was worked up with sodium sulfite. The aqueous layer was acidified and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated to give (S)-4-(4-chlorophenyl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid (3 g). The obtained (S)-4-(4-chlorophenyl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid (3.6 g) and copper (357 mg) were reacted at 150° C. for 15 min in quinoline (14 mL). After completion of the reaction, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) and recrystallized from hexane-ethyl acetate to give methyl (S)-{4-(4-chlorophenyl)-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (821 mg). A mixture of the obtained methyl (S)-{4-(4-chlorophenyl)-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate (800 mg), dichlorobis(tricyclohexylphosphine)palladium (148 mg), bisneopentylglycolatodiboron (542 mg) and potassium acetate (294 mg) was stirred at 100° C. for 5 hr in dioxane (7 mL). After cooling, the mixture was partitioned by adding water and ethyl acetate. The organic layer was washed with saturated brine, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) to give a boronic acid derivative (180 mg). To a mixture of the obtained boronic acid derivative (164 mg), dichlorobis(triphenylphosphine)palladium (II) (15 mg) and 5-bromonicotinonitrile (137 mg) were added 2 M aqueous sodium carbonate solution (1 mL) and tetrahydrofuran (1.6 mL), and the mixture was stirred at 100° C. for 4 hr. After cooling, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) and recrystallized from hexane-ethyl acetate to give the title compound (105 mg).

reactant | (S)-4-(4-chlorophenyl)-6-methoxycarbonylmethyl-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-carboxylic acid | 3.6 g | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C(=O)O)C)C(=NN2)C)CC(=O)OC | C20H17ClN4O4S
reactant | water | O | H2O
solvent | quinoline | 14 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 357 mg | [Cu] | Cu
product | methyl (S)-{4-(4-chlorophenyl)-3,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate | 821 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=CS3)C)C(=NN2)C)CC(=O)OC | C19H17ClN4O2S
